US08937071B2
A solution of N-(3,4-dichlorophenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide (60 mg, 0.108 mmol) in HCl(MeOH, 27.0 μl, 0.108 mmol) was stirred at 20° C. for 1 h. After LCMS analysis showed the starting material had disappeared, the solvent was removed in vacuo. The crude product was purified by preparative HPLC to give pure product N-(3,4-dichlorophenyl)-2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetamide (14.72 mg, 0.034 mmol, 31.3% yield): 1H NMR: (400 MHz, CD3OD) δ 7.92 (s, 1H), 7.45 (s, 2H), 7.41 (d, J=7.6 Hz, 1H), 7.38-7.32 (m, 3H), 7.28-7.25 (m, 1H), 7.27 (d, J=2.0 Hz, 1H), 4.14 (m, 2H), 3.79 (s, 2H), 1.47 (t, J=7.0 Hz, 3H); ES-LCMS: m/z 435.0 (M+H).

reactant | N-(3,4-dichlorophenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide | 0.108 mmol, 60 mg | ClC=1C=C(C=CC1Cl)NC(CC1=C(C=C(C=C1)C=1C=NC(=C(C1)OCC)OCC1=CC=C(C=C1)OC)F)=O | C29H25Cl2FN2O4
reactant | HCl | 0.108 mmol, 27.0 μl | Cl | ClH
product | N-(3,4-dichlorophenyl)-2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetamide | 0.034 mmol, 14.72 mg, 31.3% yield | ClC=1C=C(C=CC1Cl)NC(CC1=C(C=C(C=C1)C1=CNC(C(=C1)OCC)=O)F)=O | C21H17Cl2FN2O3
